US06720452B2
a) [2-[2-[4-chloro-3-(tricyclo[3.3.1.13,7]dec-1-ylmethylcarbamoyl)-phenylamino]-ethylamino]ethyl]-carbamic acid, 1,1-dimethylethyl ester
Prepared according to the method of Example 4 using 2-chloro-5-(2-chloroethyl)amino-N-(tricyclo[3.3.1.13,7]dec-1-ylmethyl)-benzamide (WO 99/29661) (0.2 g) and (2-amino-ethyl)-carbamic acid tert butyl ester (0.25 g) to deliver the sub-title compound as a brown oil (0.25 g).

reactant | 2-chloro-5-(2-chloroethyl)amino-N-(tricyclo[3.3.1.13,7]dec-1-ylmethyl)-benzamide | 0.2 g | ClC1=C(C(=O)NCC23CC4CC(CC(C2)C4)C3)C=C(C=C1)NCCCl | C20H26Cl2N2O
reactant | (2-amino-ethyl)-carbamic acid tert butyl ester | 0.25 g | C(C)(C)(C)OC(NCCN)=O | C7H16N2O2
product | [2-[2-[4-chloro-3-(tricyclo[3.3.1.13,7]dec-1-ylmethylcarbamoyl)-phenylamino]-ethylamino]ethyl]-carbamic acid, 1,1-dimethylethyl ester | 0.25 g | ClC1=C(C=C(C=C1)NCCNCCNC(OC(C)(C)C)=O)C(NCC12CC3CC(CC(C1)C3)C2)=O | C27H41ClN4O3
